US05552397
d) (S) -1,3,4,5-Tetrahydro-4-amino-3-oxo-2H-2-benzazepine-2-acetic acid, ethyl ester
20% Palladium hydroxide/carbon catalyst was added to a solution of (S)-1,3,4,5-tetrahydro-4-[[(phenylmethoxy)carbonyl]amino]-3-oxo-2H-2-benzazepine-2-acetic acid, ethyl ester (1.037 g., 2.62 mmole) in absolute ethanol (20 ml.) and the resulting suspension was stirred under a hydrogen atmosphere (balloon) for 2 hours. The mixture was filtered through Celite and filtrate was evaporated to dryness. The semi-solid residue was triturated with hexane to give 0.63 g. of product as a white, crystalline solid; m.p. 71°-73° C.; Rf =0.38 (methanol:methylene chloride, 1:9); [α]D =77.5° (c=0.59, chloroform).

reactant | (S)-1,3,4,5-tetrahydro-4-[[(phenylmethoxy)carbonyl]amino]-3-oxo-2H-2-benzazepine-2-acetic acid, ethyl ester | 2.62 mmole, 1.037 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(N(CC2=C(C1)C=CC=C2)CC(=O)OCC)=O | C22H24N2O5
reactant | methanol | CO | CH4O
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | Palladium hydroxide/carbon | [OH-].[OH-].[Pd+2]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (S) -1,3,4,5-Tetrahydro-4-amino-3-oxo-2H-2-benzazepine-2-acetic acid, ethyl ester | N[C@@H]1C(N(CC2=C(C1)C=CC=C2)CC(=O)OCC)=O | C14H18N2O3
